US06846819B1
Preparation of 3-methyl-2-(methylaminomethyl)benzo[b]thiophene
To a stirred solution of 3-methylbenzo[b]thiophene-2-carboxaldehyde (0.5 g, 2.8 mmole) in methanol (15 mL) was added 2.0 M methylamine in methanol (6 mL, 12 mmole) and HOAc (0.32 mL, 5.7 mmole). The reaction was stirred at RT for hr, then sodium cyanoborohydride (0.2 g, 3 mmole) was added in one portion. After stirring for an additional 16 hr the reaction was concentrated to dryness. The residue was taken up in Et2O and washed with 1.0 N NaOH then with brine, dried (Na2SO4), and concentrated under vacuum. Purification by flash chromatography on silica gel (95:5 CHCl3/methanol containing 5% NH4OH) gave the title compound (0.30 g, 56%) as a yellow oil: 1H NMR (400 MHz, CDCl3) δ 7.77 (d, J=7.8 Hz,1H), 7.62 (d, J=7.9 Hz, 1H), 7.34 (t,1H), 7.28 (t,1H), 3.99 (s, 2H), 2.49 (s, 3H), 2.34 (s, 3H), 1.77 (br s,1H).

reactant | 3-methylbenzo[b]thiophene-2-carboxaldehyde | 2.8 mmole, 0.5 g | CC=1C2=C(SC1C=O)C=CC=C2 | C10H8OS
reactant | methylamine | 2.0 M | CN | CH5N
reactant | HOAc | 5.7 mmole, 0.32 mL | CC(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 3 mmole, 0.2 g | C(#N)[BH3-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
solvent | methanol | 12 mmole, 6 mL | CO | CH4O
product | 3-methyl-2-(methylaminomethyl)benzo[b]thiophene | 0.30 g, 56% | CC=1C2=C(SC1CNC)C=CC=C2 | C11H13NS
